US05672724
3.2 Synthesis of N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
Combine 2-nitromethylene-thiazolidine (146 g, 1.0 mol) and acetonitrile (250 mL). Heat to 40° C. Add methylamine (90 g). After 30 minutes, cool to about -10° C. Add a solution of 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride as obtained in Example 3.1, maintained at 50° C. to 60° C. to prevent crystallization (about 322 g of solution over 3 hours). Add methylamine (120 g). Warm to 40° C. while adding methylamine (65 g). After 30 minutes, cool to 0° C. Add the remainder of the solution of 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride. After the addition is complete, evaporate in vacuo to give a residue. Partition the residue between methyl isobutyl ketone and aqueous 10% potassium carbonate solution. Separate the layers and extract the aqueous layer with methyl isobutyl ketone. Combine the organic layers extract with water. Evaporate the organic layer in vacuo to give a residue. Recrystallize the residue from methyl isobutyl ketone to give the title compound.

reactant | 2-nitromethylene-thiazolidine | 1.0 mol, 146 g | [N+](=O)([O-])C=C1SCCN1 | C4H6N2O2S
reactant | methylamine | 90 g | CN | CH5N
reactant | 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride | Cl.CN(C)CC1=CC=C(O1)CCl
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
